US04096253
1-Acetoxy-3-methoxyestra-1,3,5(10)-trien-17β-ol (1.0 g) is etherified with CH2H2, generated from N-nitrosomethylurea and catalyzed with a drop of 48% HBF4 in methylene chloride. The resulting polymethylene polymer is filtered and the methylene chloride filtrate is washed with 10% sodium bicarbonate solution, water and then dried over sodium sulfate. Evaporation in vacuo gives an oil which is crystallized from ethanol to give 1-acetoxy-3,17β-dimethoxy-1,3,5(10)-estratriene as a white solid, yield 0.78 g (75%); m.p. 81°-83° C.

reactant | 1-Acetoxy-3-methoxyestra-1,3,5(10)-trien-17β-ol | 1.0 g | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C12)O)OC | C21H28O4
reactant | CH2H2 | C | CH4
reactant | N-nitrosomethylurea | N(=O)CNC(=O)N | C2H5N3O2
reactant | HBF4 | [H+].[B-](F)(F)(F)F
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-acetoxy-3,17β-dimethoxy-1,3,5(10)-estratriene | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C12)OC)OC | C22H30O4
